US07138414B2
a) 1-(4-fluoro-2-nitrophenyl)piperidine-3-carboxamide
The mixture consisting of 1.62 g of 2,5-difluoronitrobenzene, 1.9 g of nipecotamide and 10 ml of NMP was heated with stirring to 80° C. for 2 hours. After the mixture had been allowed to cool, 30 ml of water were added and the mixture was stirred at RT for 30 minutes. The precipitated solid was filtered off with suction and dried under reduced pressure.

reactant | 2,5-difluoronitrobenzene | 1.62 g | FC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | nipecotamide | 1.9 g | N1CC(C(=O)N)CCC1 | C6H12N2O
reactant | NMP | 10 ml | CN1CCCC1=O | C5H9NO
solvent | water | 30 ml | O | H2O
product | 1-(4-fluoro-2-nitrophenyl)piperidine-3-carboxamide | FC1=CC(=C(C=C1)N1CC(CCC1)C(=O)N)[N+](=O)[O-] | C12H14FN3O3
